US04151294
To 38.5 g. of 2-(4'-chloro-4-biphenylyl)-6-(tetrahydropyran-2-yloxy)-3-hexyn-2-ol in 250 ml. of dioxane, is added dropwise with ice cooling, 100 ml. of 1 N HCl. The resulting mixture is stirred 12 hours more at 0°. After the usual work up, 2-(4'-chloro-4-biphenylyl)-3-hexyn-2,6-diol, m.p. 105°, is obtained.

reactant | 2-(4'-chloro-4-biphenylyl)-6-(tetrahydropyran-2-yloxy)-3-hexyn-2-ol | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCOC1OCCCC1)O | C23H25ClO3
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4'-chloro-4-biphenylyl)-3-hexyn-2,6-diol | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCO)O | C18H17ClO2
